US06114537
Synthesis of 3-bromomethyl-1,2,4-thiadiazolo[4,5-a]benzimidazole
A solution of 2-butyl-1,2,4-thiadiazolo[4,5-a]benzi-midazole-3(2H)-one (15 g, 60.65 mmol) and bromoacetonitrile (18.19 g, 151.6 mmol) in dichloromethane (150 mL) was stirred for 48 h. A white precipitate was formed and the insoluble solid was filtered to give 12.50 g (77%) of the title compound: 1H NMR (CDCl3)δ 4.79 (s, 2H, CH2), 7.42 (t, 1H, ArH), 7.51 (t, 1H, ArH), 7.84 (d, 1H, ArH), 7.94 (d, 1H, ArH); mp 242-244° C.

reactant | 2-butyl-1,2,4-thiadiazolo[4,5-a]benzi-midazole-3(2H)-one | 60.65 mmol, 15 g | C(CCC)N1SC2=NC3=C(N2C1=O)C=CC=C3 | C12H13N3OS
reactant | bromoacetonitrile | 151.6 mmol, 18.19 g | BrCC#N | C2H2BrN
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-bromomethyl-1,2,4-thiadiazolo[4,5-a]benzimidazole | 12.50 g, 77% | BrCC1=NSC2=NC3=C(N21)C=CC=C3 | C9H6BrN3S
